US08664257B2
Step 1: 1-(2-Fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl chloride
A suspension of 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid (39.1 g, 167 mmol) in 2-methyltetrahydrofuran (300 ml) was cooled to 0° C. and DMF (293 μl, 3.81 mmol) was added. Oxalyl chloride (23.1 g, 182 mmol) was added dropwise. After 16 h at room temperature ca. 100 ml of the solvent were removed by distillation. The resulting suspension of the title compound was used directly in the next step.

reactant | 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid | 167 mmol, 39.1 g | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)O | C11H9FN2O3
reactant | DMF | 3.81 mmol, 293 μl | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 182 mmol, 23.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 2-methyltetrahydrofuran | 300 ml | CC1OCCC1 | C5H10O
product | 1-(2-Fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl chloride | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)Cl | C11H8ClFN2O2
